US07592373B2
3.4.b. (2,4-dichlorophenyl)propynoic Acid
A solution of 19.2 g (50.94 mmol) of 2,3-dibromo-3-(2,4-dichlorophenyl)propanecarboxylic acid in 130 mL of tert-butanol is combined batchwise with a total of 22.86 (203.78 mmol) of potassium tert-butoxide, so that the temperature does not exceed 40° C. Then the mixture is stirred for another 90 minutes at this temperature. The reaction mixture is poured into 2N hydrochloric acid and the precipitate is taken up in ethyl acetate. The organic phase is extracted three times with water and dried over sodium sulfate. The desiccant is filtered off and the solvent is distilled off. The residue is dried in the circulating air dryer at 80° C. Yield: 9.73 g (88.8% of theory); melting point: 168° C.-171° C.; C9H4Cl2O2 (M=215.03); Rf value: 0.5 (silica gel, dichloromethane/ethanol/glacial acetic acid (10:1:0.1)).

reactant | 2,3-dibromo-3-(2,4-dichlorophenyl)propanecarboxylic acid | 50.94 mmol, 19.2 g | BrC(CC(=O)O)C(C1=C(C=C(C=C1)Cl)Cl)Br | C10H8Br2Cl2O2
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tert-butanol | 130 mL | C(C)(C)(C)O | C4H10O
product | (2,4-dichlorophenyl)propynoic Acid | ClC1=C(C=CC(=C1)Cl)C#CC(=O)O | C9H4Cl2O2
